US04343811
2-(3,4-Dibenzyl-1-propyl-1H-indole-5-yloxy)-2-methyl-propanoic acid ethylester
The above compound was prepared from 3,4-dibenzyl-1-propyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 3,4-dibenzyl-1-propyl-1H-indole-5-ol | C(C1=CC=CC=C1)C1=CN(C2=CC=C(C(=C12)CC1=CC=CC=C1)O)CCC | C25H25NO
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-(3,4-Dibenzyl-1-propyl-1H-indole-5-yloxy)-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C(=C2C(=CN(C2=CC1)CCC)CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C31H35NO3
